US07982071B2
Preparation of 3-amino-1-(3-(cycloheptylmethoxy)phenyl)propan-1-one
HCl gas was bubbled for 1-2 min through an ice-cold solution of tert-butyl 3-(3-(cycloheptylmethoxy)phenyl)-3-oxopropylcarbamate (0.495 g, 1.318 mmol) in EtOAc (ca. 20 mL). The reaction mixture was warmed to room temperature. After stirring overnight, the mixture was diluted with diethyl ether (ca. 30 mL). The white solid was collected by filtration, washed with diethyl ether and hexanes and dried under vacuum for 4 h. Example 16 was isolated as a white solid. Yield (0.285 g, 69%): 1H NMR (400 MHz, DMSO-d6) δ 8.05 (br s, 3H), 7.52 (dt, J=8.0, 1.2 Hz, 1H), 7.44 (t, J=8.0 Hz, 1H), 7.40 (t, J=2.4 Hz, 1H), 7.23 (ddd, J=8.4, 2.8, 1.2 Hz, 1H), 3.81 (d, J=6.4 Hz, 2H), 3.41 (t, J=6.4 Hz, 2H), 3.10 (q, J=5.6 Hz, 2H), 1.88-1.95 (m, 1H), 1.76-1.83 (m, 2H), 1.61-1.69 (m, 2H), 1.38-1.59 (m, 6H), 1.22-1.31 (m, 2H).*

reactant | HCl | Cl | ClH
reactant | tert-butyl 3-(3-(cycloheptylmethoxy)phenyl)-3-oxopropylcarbamate | 1.318 mmol, 0.495 g | C1(CCCCCC1)COC=1C=C(C=CC1)C(CCNC(OC(C)(C)C)=O)=O | C22H33NO4
solvent | EtOAc | ca. 20 mL | CCOC(=O)C | C4H8O2
solvent | diethyl ether | ca. 30 mL | C(C)OCC | C4H10O
product | 3-amino-1-(3-(cycloheptylmethoxy)phenyl)propan-1-one | NCCC(=O)C1=CC(=CC=C1)OCC1CCCCCC1 | C17H25NO2
